US08012956B2
Methyl 5-amino-4-cyano-2-(trifluoromethyl)benzoate (250 mg, 1.02 mmol) was dissolved in THF (6 mL), and the mixture was sparged with nitrogen for 15 minutes. Copper (I) iodide (195 mg, 1.02 mmol) and diiodomethane (0.4 mL, 4.95 mmol) were added followed by isoamyl nitrite (0.4 mL, 3.01 mmol), and the mixture was stirred at reflux for 2.5 h. The mixture was cooled to ambient temperature and then was partitioned between ethyl acetate and 1N hydrochloric acid. The aqueous portion was extracted with ethyl acetate (2×). The combined organic portion was washed sequentially with 1:1 saturated sodium bicarbonate solution: 1 M sodium thiosulfate (2×) and brine, was dried over sodium sulfate, then filtered and concentrated to provide a semi-solid which was purified by column chromatography (silica gel, 20-50% dichloromethane in hexanes) to afford methyl 4-cyano-5-iodo-2-(trifluoromethyl)benzoate (174 mg, 0.49 mmol, 48% yield). 1H NMR (400 MHz, CDCl3): δ 8.33 (s, 1H), 7.93 (s, 1H), 3.98 (s, 3H); GCMS for C10H5F3INO2: 355 (M+).

reactant | Methyl 5-amino-4-cyano-2-(trifluoromethyl)benzoate | 1.02 mmol, 250 mg | NC=1C(=CC(=C(C(=O)OC)C1)C(F)(F)F)C#N | C10H7F3N2O2
reactant | diiodomethane | 4.95 mmol, 0.4 mL | ICI | CH2I2
reactant | isoamyl nitrite | 3.01 mmol, 0.4 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
catalyst | Copper (I) iodide | 1.02 mmol, 195 mg | [Cu]I
product | methyl 4-cyano-5-iodo-2-(trifluoromethyl)benzoate | 0.49 mmol, 174 mg, 48% yield | C(#N)C1=CC(=C(C(=O)OC)C=C1I)C(F)(F)F | C10H5F3INO2
